US08314109B2
To a solution of 500 mg of ethyl 6-[(trimethylsilyl)ethynyl]imidazo[1,2-a]pyridine-2-carboxylate in 10 mL of anhydrous tetrahydrofuran, cooled to 0° C. are added dropwise 1.58 mL of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran. The reaction mixture is stirred for 30 minutes, 5 mL of water are then added and the resulting mixture is extracted three times with 20 mL of dichloromethane. The product is purified by chromatography on silica, eluting with mixtures of ethyl acetate and hexane (from 1/3 to 1/1). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure to give 280 mg of ethyl 6-ethynylimidazo[1,2-a]pyridine-2-carboxylate in the form of a yellow solid.

reactant | ethyl 6-[(trimethylsilyl)ethynyl]imidazo[1,2-a]pyridine-2-carboxylate | 500 mg | C[Si](C)(C)C#CC=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C15H18N2O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl 6-ethynylimidazo[1,2-a]pyridine-2-carboxylate | 280 mg | C(#C)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C12H10N2O2
